US09314464B2
Intermediate. Cyano-(2-methylthio-pyrimidin-4-yl)-acetic acid tert-butyl ester
To a suspension of sodium hydride (7.15 g, 179 mmol, 60% in oil) in DMSO (100 mL) was added tert-butyl cyanoacetate (24.8 g, 170 mmol) at 23° C. After the evolution of hydrogen ceased, 4-chloro-2-methylthiopyrimidine (13.7 g, 85 mmol) was added. The reaction was heated at 80° C. for 16 h. The reaction mixture was then cooled to room temperature and quenched with ice-cooled saturated ammonium chloride (300 mL). The solid was filtered and washed with water (2×200 mL). 300 mL of hexane was added to the solid and the suspension was heated at 60° C. for 1 h and then cooled to room temperature. The solid was filtered and washed with hexane to afford the title compound; 1H NMR 400 MHz (CDCl3) δ 7.82 (d, 1H), 6.74 (d, 1H), 2.63 (s, 3H), 2.61 (s, 1H), 1.52 (s, 9H); MS m/z: 266.0 (M+1).

reactant | sodium hydride | 179 mmol, 7.15 g | [H-].[Na+]
reactant | tert-butyl cyanoacetate | 170 mmol, 24.8 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-2-methylthiopyrimidine | 85 mmol, 13.7 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | Cyano-(2-methylthio-pyrimidin-4-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(C(C1=NC(=NC=C1)SC)C#N)=O | C12H15N3O2S
